US07829572B2
Preparation of (R)-2-(2-methoxyphenyl)-3-(1-phenylpropan-2-yl)-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one
2-(2-methoxyphenyl)-3-((R)-1-phenylpropan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one (19.04 g, 43.13 mmol) was dissolved in acetone (800 mL). To this was added a 5% aqueous solution of potassium permanganate (34.1 g KMnO4 in 700 mL water). The resultant mixture was stirred at room temperature overnight. The reaction was quenched by pouring it into a 10% aqueous solution of sodium bisulfite (3 L). The resulting aqueous solution was extracted with ethyl acetate (3×700 mL). The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to provide an oil. This oil was purified by flash chromatography using 25-50% ethyl acetate/heptanes as eluant to provide the product as a solid. This solid was recrystallized from ethyl acetate/hexanes to yield a colorless solid (12.5 g). 1H NMR (400 MHz, CDCl3) δ 8.8 (d, 1H), 7.65 (d, 1H), 7.4 (t, 1H), 7.15 (m, 7H), 6.95 (t, 1H), 6.8 (d, 1H), 6.35 (d, 1H), 4.2 (m, 1H), 3.8 (s, 3H), 3.6 (dd, 1H), 2.9 (dd, 1H), 1.75 (d, 3H). MS m/z 440.3 (M+H)+.

reactant | 2-(2-methoxyphenyl)-3-((R)-1-phenylpropan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one | 43.13 mmol, 19.04 g | COC1=C(C=CC=C1)C1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)[C@@H](CC2=CC=CC=C2)C | C24H22F3N3O2
reactant | potassium permanganate | 700 mL, 34.1 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 800 mL | CC(=O)C | C3H6O
product | (R)-2-(2-methoxyphenyl)-3-(1-phenylpropan-2-yl)-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one | COC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)[C@@H](CC2=CC=CC=C2)C | C24H20F3N3O2
